US06017919
1-Bromo-2-dibromomethyl-4-pentyloxynaphthalene (1.13 g, 2.43 mmol), acetic acid (8 ml) and sodium acetate (0.8 g, 9.72 mmol) were mixed, and this solution was refluxed under heating for 4 hours. Acetic acid was evaporated under reduced pressure. Water (5 ml) was added, and the aqueous layer was extracted twice with ethyl acetate (20 ml). The organic layers were combined, washed with saturated brine (10 ml), a saturated aqueous sodium hydrogencarbonate solution (10 ml) and saturated brine (10 ml), and dried over anhydrous magnesium sulfate. The drying agent was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography (hexane/ethyl acetate=25/1) to give 1-bromo4-pentyloxynaphthalene-2-carbaldehyde (0.647 g, 83%) as colorless crystals.

reactant | 1-Bromo-2-dibromomethyl-4-pentyloxynaphthalene | 2.43 mmol, 1.13 g | BrC1=C(C=C(C2=CC=CC=C12)OCCCCC)C(Br)Br | C16H17Br3O
reactant | sodium acetate | 9.72 mmol, 0.8 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
product | 1-bromo4-pentyloxynaphthalene-2-carbaldehyde | 0.647 g, 83% | BrC1=C(C=C(C2=CC=CC=C12)OCCCCC)C=O | C16H17BrO2
